* Z:\mnt\design.r\spice\examples\1302.asc
C1 OUT 0 100µ
D1 N001 OUT MBRS340
L1 IN N001 10µ
R1 N005 N006 20K
R2 OUT N003 315K
R3 N003 0 105K
C3 N006 0 .01µ
V1 IN 0 2.5
XU1 0 N005 N002 N003 N004 IN N001 0 LT1302
R4 OUT 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.5m startup
.lib LT1302.sub
.backanno
.end
